US04927838
7-Methoxy-1-(3-methoxyphenyl)-2-naphthalenemethanol (1.75 g) was oxidized using the reagent prepared as in Example 136 from oxalyl chloride (0.62 mL) and dimethylsulfoxide (0.9 mL) in dichloromethane (14 mL). The usual work up furnished 1.6 g of 7-methoxy-1-(3-methoxyphenyl)-2-naphthalenecarboxaldehyde.

reactant | 7-Methoxy-1-(3-methoxyphenyl)-2-naphthalenemethanol | 1.75 g | COC1=CC=C2C=CC(=C(C2=C1)C1=CC(=CC=C1)OC)CO | C19H18O3
reactant | oxalyl chloride | 0.62 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylsulfoxide | 0.9 mL | CS(=O)C | C2H6OS
solvent | dichloromethane | 14 mL | ClCCl | CH2Cl2
product | 7-methoxy-1-(3-methoxyphenyl)-2-naphthalenecarboxaldehyde | 1.6 g | COC1=CC=C2C=CC(=C(C2=C1)C1=CC(=CC=C1)OC)C=O | C19H16O3
